US08455477B2
Into a 3,000 ml 3-necked roundbottom flask, was placed a solution of 1-benzyl-2-(chloromethyl)pyrrolidine (150. g, 714 mmol) in N,N-dimethylformamide (1,500 ml). This was followed by the addition of a solution of NaCN (54.2 g, 834 mmol) in water (300 ml). The resulting solution was heated to reflux for 2 hours. After cooling to ambient temperature, the solution was dissolved in 6,000 ml of water. The resulting solution was extracted with ethyl acetate (3×3,000 ml) and the combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by flash column chromatography (ethylacetate/petroleum ether gradient) to afford 2-(1-benzylpyrrolidin-2-yl)acetonitrile.

reactant | 1-benzyl-2-(chloromethyl)pyrrolidine | 714 mmol | C(C1=CC=CC=C1)N1C(CCC1)CCl | C12H16ClN
reactant | NaCN | 834 mmol, 54.2 g | [C-]#N.[Na+]
solvent | N,N-dimethylformamide | 1,500 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
solvent | water | 6,000 ml | O | H2O
product | 2-(1-benzylpyrrolidin-2-yl)acetonitrile | C(C1=CC=CC=C1)N1C(CCC1)CC#N | C13H16N2
